* D:\Wicirelllis\sem 1\task_3.asc
V1 N001 0 SINE(0 25 9k)
D1 N001 N002 Botov
C1 N002 0 12µ
R1 a N002 6k
D2 0 a Efremov
R2 a 0 5k
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model Efremov D IS=7n N=1.03 BV=7 IBV=4u RS=15m TT=12n CJO=14p
.model Botov D IS=12n N=1 RS=35m TT=5n CJO=12p
.tran 0 1.555m 1.111m
.backanno
.end
